US06043337
N,N-Dimethyl-4-(6-hydroxy-2,2,3,3,4,4,5,5-octafluorohexyloxy)-2,3,5,6-tetrafluorobenzeneamine (1.05 g) was treated with 1-chloro-2,4-dinitrobenzene (0.51 g) and potassium carbonate (0.35 g) in NMP (5 mL) at 80° C. for 21.5 hrs. The mixture was diluted with water and extracted with ethyl ether. The extracts were washed with water and brine, dried (K2CO3), and concentrated to an orange oil. The oil was purified by chromatography to give N,N-dimethyl-4-[6-(2,4dinitrophenoxy)-2,2,3,3,4,4,5,5-octaflurohexyloxy]-2,3,5,6-tetrafluorobenzeneamine (1.05 g) as an oil.

reactant | N,N-Dimethyl-4-(6-hydroxy-2,2,3,3,4,4,5,5-octafluorohexyloxy)-2,3,5,6-tetrafluorobenzeneamine | 1.05 g | CN(C1=C(C(=C(C(=C1F)F)OCC(C(C(C(CO)(F)F)(F)F)(F)F)(F)F)F)F)C | C14H11F12NO2
reactant | 1-chloro-2,4-dinitrobenzene | 0.51 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
solvent | water | O | H2O
product | N,N-dimethyl-4-[6-(2,4dinitrophenoxy)-2,2,3,3,4,4,5,5-octaflurohexyloxy]-2,3,5,6-tetrafluorobenzeneamine | 1.05 g | CN(C1=C(C(=C(C(=C1F)F)OCC(C(C(C(COC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])(F)F)(F)F)(F)F)(F)F)F)F)C | C20H13F12N3O6
